US06559091B1
In a 500 mL round bottom flask, 2,4,6-tri-tert-butylaniline (2.0 g) and 2.6 mL triethylamine were dissolved in dichloromethane (50 mL) and cooled to 0° C. A mixture of ethyl chloroglyoxylate (0.85 mL) and dichloromethane (33 mL) was slowly added via dropping funnel, after which the mixture was stirred at 0° C. for 1 h, and then at 25° C. for 3 h. The resultant mixture was quenched with 100 mL of water. The aqueous layer was extracted with 100 mL of dichloromethane. The combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure (20 mm Hg). The residue was purified by flash chromatography (silica; hexane/EtOAc; linear gradient). The N-(2,4,6-tri-tert-butylphenyl)oxalamic acid ethyl ester so obtained (201.5 mg) was reacted with excess hydrazine hydrate (81 μL) in 5 mL of EtOH at 50° C. for 14 h. The resultant solid was isolated by filtration and washed with EtOH to obtain compound a38.

reactant | ethyl chloroglyoxylate | 0.85 mL | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | 2,4,6-tri-tert-butylaniline | 2.0 g | C(C)(C)(C)C1=C(N)C(=CC(=C1)C(C)(C)C)C(C)(C)C | C18H31N
solvent | triethylamine | 2.6 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 33 mL | ClCCl | CH2Cl2
product | N-(2,4,6-tri-tert-butylphenyl)oxalamic acid ethyl ester | C(C)OC(C(=O)NC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)C(C)(C)C)=O | C22H35NO3
